US07410981B2
2-(Methylamino)ethyl 3,4,5-trimethoxybenzoate hydrochloride
To a mixture of tert-butyl 2-hydroxyethyl (methyl)carbamate (1.75 g) obtained in Reference Example 1 and ethyl acetate (10 mL) were added 3,4,5-trimethoxybenzoyl chloride (2.54 g) and pyridine (0.97 mL). After stirring at 60° C. for 14 hrs., 3,4,5-trimethoxybenzoyl chloride (1.30 g), pyridine (0.97 mL) and ethyl acetate (10 mL) were added, and the mixture was stirred at 60° C. for 24 hrs. The reaction mixture was filtered and ethyl acetate (50 mL) and water (30 mL) were added to the filtrate. After partitioning, ethyl acetate layer was washed with 1N hydrochloric acid (30 mL), water (30 mL), an aqueous copper (II) sulfate solution (30 mL), water (30 mL) and saturated brine (30 mL), and dried over anhydrous magnesium sulfate. After concentration under reduced pressure, the residue was purified by silica gel column chromatography (eluted with ethyl acetate:hexane=1:1). A 4N hydrogen chloride-ethyl acetate solution (10 mL) was added to the purified product. After stirring at room temperature for 4 hrs, the mixture was concentrated under reduced pressure. Toluene (10 mL) was added, and the mixture was concentrated under reduced pressure. The residue was suspended in ethyl acetate, and the solid was filtrated. After washing with ethyl acetate (15 mL), the solid was dried under reduced pressure to give the title compound (1.79 g) as a white solid.

reactant | 3,4,5-trimethoxybenzoyl chloride | 2.54 g | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
reactant | pyridine | 0.97 mL | N1=CC=CC=C1 | C5H5N
reactant | 3,4,5-trimethoxybenzoyl chloride | 1.30 g | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
reactant | pyridine | 0.97 mL | N1=CC=CC=C1 | C5H5N
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 2-(Methylamino)ethyl 3,4,5-trimethoxybenzoate hydrochloride | 1.79 g | Cl.COC=1C=C(C(=O)OCCNC)C=C(C1OC)OC | InChI=1S/C13H19NO5.ClH/c1-14-5-6-19-13(15)9-7-10(16-2)12(18-4)11(8-9)17-3;/h7-8,14H,5-6H2,1-4H3;1H
